US07423159B2
Diisobutylaluminum hydride (1.5N toluene solution, 10 ml) was added to a solution of methyl 5-(4-fluorophenyl)-1,2,3-thiadiazole-4-carboxylate (1.19 g) in tetrahydrofuran (30 ml) at 0° C. and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into an aqueous dilute hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give [5-(4-fluorophenyl)-1,2,3-thiadiazol-4-yl]methanol (0.80 g, yield 76%) as a yellow oil.

reactant | Diisobutylaluminum hydride | 1.5N, 10 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 5-(4-fluorophenyl)-1,2,3-thiadiazole-4-carboxylate | 1.19 g | FC1=CC=C(C=C1)C1=C(N=NS1)C(=O)OC | C10H7FN2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [5-(4-fluorophenyl)-1,2,3-thiadiazol-4-yl]methanol | 0.80 g, yield 76% | FC1=CC=C(C=C1)C1=C(N=NS1)CO | C9H7FN2OS
